US06180622B2
Iodomethane (0.84 g) is added to 37.0 mg of allyl(1R,5S,6S)-2-[(3S,5S)-1-allyloxycarbonyl-5-[N-(imidazo[5,1-b]thiazol-5-yl)methyl-N-methylaminocarbonyl]pyrrolidin-3-yl]thio-6-((1R)-1-hydroxyethyl)-1-methylcarbapen-2-em-3-carboxylate, and the mixture is stirred in an argon atmosphere in a light-shielded state at room temperature for 18 hr. The excess reagent is removed by evaporation under reduced pressure, and the residue is purified by column chromatography on Sephadex LH-20 (chloroform:methanol=1:1) to give 36.3 mg of allyl(1R,5S,6S)-2-[(3S,5S)-1-allyloxycarbonyl-5-[N-methyl-N-(6-methylimidazo[5,1-b]thiazolium-5-yl)methylaminocarbonyl]pyrrolidin-3-yl]thio-6-((1R)-1-hydroxyethyl)-1-methylcarbapen-2-em-3-carboxylate iodide as a milky white amorphous material.

reactant | Iodomethane | 0.84 g | IC | CH3I
reactant | allyl(1R,5S,6S)-2-[(3S,5S)-1-allyloxycarbonyl-5-[N-(imidazo[5,1-b]thiazol-5-yl)methyl-N-methylaminocarbonyl]pyrrolidin-3-yl]thio-6-((1R)-1-hydroxyethyl)-1-methylcarbapen-2-em-3-carboxylate | 37.0 mg | C(C=C)OC(=O)N1C[C@H](C[C@H]1C(=O)N(C)CC1=NC=C2SC=CN21)SC=2[C@@H]([C@H]1N(C2C(=O)OCC=C)C([C@@H]1[C@@H](C)O)=O)C | C29H35N5O7S2
product | allyl(1R,5S,6S)-2-[(3S,5S)-1-allyloxycarbonyl-5-[N-methyl-N-(6-methylimidazo[5,1-b]thiazolium-5-yl)methylaminocarbonyl]pyrrolidin-3-yl]thio-6-((1R)-1-hydroxyethyl)-1-methylcarbapen-2-em-3-carboxylate iodide | 36.3 mg | [I-].C(C=C)OC(=O)N1C[C@H](C[C@H]1C(=O)N(CC=1N(C=C2SC=C[N+]21)C)C)SC=2[C@@H]([C@H]1N(C2C(=O)OCC=C)C([C@@H]1[C@@H](C)O)=O)C | InChI=1S/C30H38N5O7S2.HI/c1-7-10-41-29(39)25-26(17(3)24-23(18(4)36)28(38)35(24)25)44-19-13-20(34(14-19)30(40)42-11-8-2)27(37)32(6)15-21-31(5)16-22-33(21)9-12-43-22;/h7-9,12,16-20,23-24,36H,1-2,10-11,13-15H2,3-6H3;1H/q+1;/p-1/t17-,18-,19+,20+,23-,24-;/m1./s1
